US08071796B2
3) Synthesis of 4-(5-fluoro-2,3-dihydro-benzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic Acid
A solution of 0.07 mol 5-fluoro-2,3-dihydro-benzofurane in 21 ml of dichloromethane is cooled to 3° C. To this solution 0.1 mol of AlCl3 is added over a period of 30 minutes. After this addition 0.05 mol of 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoic acid is added dropwise over 30 minutes. The mixture is stirred for at least 6 h under reflux conditions. After complete reaction the solution is poured on a mixture of ice (50 ml) and 1M HCl (10 ml) and stirred for at least 1 hour. The aqueous phase is extracted three times with 51 ml of ethylacetate. The combined organic phases are washed with water, saturated sodium chloride solution (brine) and dried over magnesiumsulfate. The solvent is evaporated under vacuum. The product may be recrystallized from n-heptane. As the title compound is yielded in highly pure form the recrystallization is not necessary. The title compound may be used directly to start the next step.

reactant | 5-fluoro-2,3-dihydro-benzofurane | 0.07 mol | FC=1C=CC2=C(CCO2)C1 | C8H7FO
reactant | AlCl3 | 0.1 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-hydroxy-4-methyl-2-(trifluoromethyl)pentenoic acid | 0.05 mol | OC(C(=O)O)(C=C(C)C)C(F)(F)F | C7H9F3O3
reactant | HCl | 1M, 10 ml | Cl | ClH
solvent | dichloromethane | 21 ml | ClCCl | CH2Cl2
product | 4-(5-fluoro-2,3-dihydro-benzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic Acid | FC=1C=C(C2=C(CCO2)C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C | C15H16F4O4
